US07989444B2
Preparation 41: 7-nitro-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of 3-acetyl-7-nitro-2,3,4,5-tetrahydro-1H-3-benzazepine (2.9 g) in HCl (conc) (200 ml) as refluxed for 48 h. Mixture was cooled at 0° C. and neutralised with NaOH (conc.) then was extracted with DCM. The organic layer was collected and the aqueous phase extracted twice with DCM. The combined DCM layers were concentrated to provide the target compound (2.33 g).

reactant | 3-acetyl-7-nitro-2,3,4,5-tetrahydro-1H-3-benzazepine | 2.9 g | C(C)(=O)N1CCC2=C(CC1)C=CC(=C2)[N+](=O)[O-] | C12H14N2O3
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 200 ml | Cl | ClH
product | 7-nitro-2,3,4,5-tetrahydro-1H-3-benzazepine | 2.33 g | [N+](=O)([O-])C1=CC2=C(CCNCC2)C=C1 | C10H12N2O2
